US07199147B2
Under a nitrogen atmosphere, a solution of tetrafluoroborate nitrite (110 mg, 0.783 mmol) in acetonitrile (3 ml) was added dropwise to a suspension of the 1H-indazol-5-ol (100 mg, 0.745 mmol) obtained in Reference Example 4 in acetonitrile (4.0 ml) at −35° C. over a period of 10 minutes, and the resulting mixture was slowly heated to 0° C. After 2 hours, the reaction solution was poured into water and extracted with ethyl acetate. The extract solution was concentrated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate). The residue purified was concentrated under reduced pressure and the resulting residue was washed with ethanol/diisopropyl ether by repulping to obtain 4-nitro-1H-indazol-5-ol (59.8 mg, 45%).

reactant | tetrafluoroborate nitrite | 0.783 mmol, 110 mg | N(=O)[O-].F[B-](F)(F)F
reactant | 1H-indazol-5-ol | 0.745 mmol, 100 mg | N1N=CC2=CC(=CC=C12)O | C7H6N2O
reactant | water | O | H2O
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | acetonitrile | 4.0 ml | C(C)#N | C2H3N
product | 4-nitro-1H-indazol-5-ol | 59.8 mg, 45% | [N+](=O)([O-])C1=C2C=NNC2=CC=C1O | C7H5N3O3
